US08609669B2
Ethyl 2-(cyclopentyloxy)acetate
A solution of cyclopentanol (2.28 mL, 25.1 mmol) in THF (10 mL) was added dropwise with ice cooling to a suspension of sodium hydride (60% dispersion in oil, 1.054 g, 26.3 mmol) in THF (20 mL). The mixture was stirred with ice cooling under nitrogen for 30 minutes, and then a solution of ethyl bromoacetate (2.66 mL, 23.95 mmol) in THF (10 mL) was added dropwise, followed by a THF (10 mL) rinse. The reaction mixture was allowed to warm to room temperature and stirred for 20 hours. Water (60 mL) was added cautiously, and the resulting mixture was extracted with EtOAc (2×50 mL). The combined extract was washed with saturated brine (40 mL), dried (MgSO4), filtered, and concentrated to provide the title compound, used directly in the next step.

reactant | cyclopentanol | 25.1 mmol, 2.28 mL | C1(CCCC1)O | C5H10O
reactant | sodium hydride | 26.3 mmol, 1.054 g | [H-].[Na+]
reactant | ethyl bromoacetate | 23.95 mmol, 2.66 mL | BrCC(=O)OCC | C4H7BrO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Ethyl 2-(cyclopentyloxy)acetate | C1(CCCC1)OCC(=O)OCC | C9H16O3
